US05859007
To a stirring solution of 700 mg (1.89 mmol) 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide in DMSO is added 370 mg of Cu powder (5.8 mmol, 3 equiv), 380 mg of potassium acetate (3.88 mmol, 2 equiv) and 500 mg of 4-bromopyridine (3.16 mmol, 1.7 equiv, freshly free-based from the hydrochloride salt). The reaction is heated to 100° C. for 16 h then poured onto ice. Dichloromethane is added, and the mixture is filtered through celite. The filtrate is poured into a separatory funnel containing 100 mL of H2O, and the layers separated. 2 mL of a 30% solution of NH4OH were added to the aqueous layer, and the resulting blue solution is extracted with dichloromethane. The combined organics were dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography to afford 437 mg of 2-(2,4-Dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide as a white solid: mp. 211°-213° C.; 1H NMR (CDCl3, 400 MHz) δ8.61 (d, br, 2H, J=5.4), 7.43 (d, 1H, J=8.1), 7.36-7.14 (m, 5H), 6.99-6.22 (m, 4H), 5.03 (m, 1H), 4.26 (dd, br, 2H, J=16.6, 28.5), 3.87 (s, 3H), 3.55 (dd, 2H, J=12.0, 36.4), 1.09 (d, 6H, J=6.8); low resolution MS (FAB)m/e 459 (MH+).

reactant | 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.89 mmol, 700 mg | O=C1CC(NC2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O | C21H23N3O4
reactant | potassium acetate | 3.88 mmol, 380 mg, 2 equiv | C(C)(=O)[O-].[K+]
reactant | 4-bromopyridine | 500 mg | BrC1=CC=NC=C1 | C5H4BrN
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2,4-Dioxo-5-pyridin-4-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 437 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=NC=C2)=O | C26H26N4O4
